US07208493B2
6-bromo-3H-quinazolin-4-one
2-Amino-5-Bromo-benzoic acid (10.817 g, 50 mmol) was suspended in 70 ml formamide. The mixture was heated at 180° C. for 7 hrs. The cooled solution was diluted with 100 ml cold water and filtered. The tan solid was washed with di water and used for the next step reaction without further purification. 10.2 g product was obtained. Yield: 90%. 1H NMR (500 MHz, DMSO-d6): δ 7.61430–7.63179(d, J=8.745 Hz, 1H), 7.94922–7.97149 (dd, J1=8.75 Hz, J2=2.385 Hz, 1H), 8.142421(s, 1H), 8.19136–8.19609(d, J=2.365 Hz, 1H); ESI-MS: m/z 225, 227(M++1)

reactant | 2-Amino-5-Bromo-benzoic acid | 50 mmol, 10.817 g | NC1=C(C(=O)O)C=C(C=C1)Br | C7H6BrNO2
reactant | formamide | 70 ml | C(=O)N | CH3NO
solvent | water | 100 ml | O | H2O
product | 6-bromo-3H-quinazolin-4-one | 10.2 g, Yield: 90% | BrC=1C=C2C(NC=NC2=CC1)=O | C8H5BrN2O
